US07612114B2
Acetic acid 3-{acetyl-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-bromophenyl ester
To the total amount of N-(2-bromo-5-hydroxyphenyl)-N-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]acetamide crude product, which was synthesized from N-(2-bromo-5-methoxyphenyl)-N-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]acetamide (380 mg) synthesized according to an analogous synthetic method to Example 364 described below, were added pyridine (2 ml) and acetic anhydride (2 ml), and the solution was stirred for 1 hour at room temperature. To the reaction mixture was added a saturated aqueous solution of sodium bicarbonate, the solution was extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform-methanol system) to provide the title compound (350 mg).

reactant | N-(2-bromo-5-hydroxyphenyl)-N-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]acetamide | BrC1=C(C=C(C=C1)O)N(C(C)=O)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C22H26BrFN2O3
reactant | N-(2-bromo-5-methoxyphenyl)-N-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]acetamide | 380 mg | BrC1=C(C=C(C=C1)OC)N(C(C)=O)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C23H28BrFN2O3
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | Acetic acid 3-{acetyl-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-bromophenyl ester | 350 mg | C(C)(=O)N(C=1C=C(C=CC1Br)OC(C)=O)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C24H28BrFN2O4
